US06107329
5-Chloro-1H-indole-2-carboxylic acid (2-oxo-2-thiazolidin-3-yl-ethyl)-amide
2-Amino-1-thiazolidin-3-yl-ethanone hydrochloride (3.1 mmol) and 5-chloro-1H-indole-2-carboxylic acid (3.4 mmol) were coupled according to Procedure A (0-25° C., 120 hour reaction time) substituting the following workup: the reaction mixture was stirred with ethyl acetate and 2N HCl, filtered, and the filtered solid washed with 2N HCl, 2N NaOH and ether. Yield 988 mg, 98%; HPLC (70/30) 3.25 minutes (99%); mp 253-255° C. (dec, darkening at 243° C.); PBMS 324/326 (MH+, 100%);

reactant | 2-Amino-1-thiazolidin-3-yl-ethanone hydrochloride | 3.1 mmol | Cl.NCC(=O)N1CSCC1
reactant | 5-chloro-1H-indole-2-carboxylic acid | 3.4 mmol | ClC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6ClNO2
reactant | HCl | 2N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-Chloro-1H-indole-2-carboxylic acid (2-oxo-2-thiazolidin-3-yl-ethyl)-amide | O=C(CNC(=O)C=1NC2=CC=C(C=C2C1)Cl)N1CSCC1 | C14H14ClN3O2S
